US07943609B2
N-[(1R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-3-nitroquinolin-4-amine (6.51 g, 12.5 mmol) was dissolved in 75 mL toluene and the solution was placed in a pressure bottle. Platinum on carbon (5%, 2.0 g) was then added and the reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa). After 6 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with toluene and 2-propanol and the combined filtrates were concentrated under reduced pressure to give N4-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]quinoline-3,4-diamine (6.12 g) as a brown foam.

reactant | N-[(1R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]-3-nitroquinolin-4-amine | 12.5 mmol, 6.51 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)C | C26H45N3O4Si2
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Platinum on carbon | 2.0 g | [Pt] | Pt
product | N4-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-methylpropyl]quinoline-3,4-diamine | 6.12 g | [Si](C)(C)(C(C)(C)C)OC([C@@H](CO[Si](C)(C)C(C)(C)C)NC1=C(C=NC2=CC=CC=C12)N)(C)C | C26H47N3O2Si2
